### PR TITLE
[Merged by Bors] - feat: norm positivity extension proves strict positivity

### LINKED ISSUE #5265: Improve positivity extension for norm
`positivity` already can prove `0 ≤ ‖x‖`. Make it able to prove `0 < ‖x‖` from `x ≠ 0`.

### PR DESCRIPTION
**Pull request by ericrbg**
Closes #5265. 

---

- [x] depends on: #10274
- [x] depends on: #10293
- [x] depends on: #19438

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/Bounds.lean [hunk 1]
```diff
@@ -120,6 +120,7 @@ theorem ContinuousLinearMap.norm_iteratedFDerivWithin_le_of_bilinear_aux {Du Eu
       (fun i j => ‖iteratedFDerivWithin 𝕜 i f s x‖ * ‖iteratedFDerivWithin 𝕜 j g s x‖) n).symm
 #align continuous_linear_map.norm_iterated_fderiv_within_le_of_bilinear_aux ContinuousLinearMap.norm_iteratedFDerivWithin_le_of_bilinear_aux
 
+set_option maxHeartbeats 400000 in
```
Comment (ericrbg) [inline Mathlib/Analysis/Calculus/ContDiff/Bounds.lean:123]: this proof was at 206278 heartbeats before, and went to 230612; I wonder if `Qq` is slow here :/ or maybe just trying to check for positivity is too much. I wonder if it's worth optimising `positivity` so you can also "request" specific things from extensions; in this case it would save a lot of work to not check for `0 < _` unless needed.

Comment (ericrbg) [reply Mathlib/Analysis/Calculus/ContDiff/Bounds.lean:123]: I also wonder if it'll get better after the fun_like changes.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 2]
```diff
@@ -1406,6 +1387,42 @@ theorem SeminormedGroup.uniformCauchySeqOn_iff_tendstoUniformlyOn_one {f : ι 
...
+open Lean Meta Qq Function
+
+/-- Extension for the `positivity` tactic: multiplicative norms are nonnegative, via
+`norm_nonneg'`. -/
+@[positivity Norm.norm _]
+def evalMulNorm : PositivityExt where eval {u α} _ _ e := do
+  match u, α, e with
+  | 0, ~q(ℝ), ~q(@Norm.norm $E $_n $a) =>
+    let _sng ← synthInstanceQ q(SeminormedGroup $E)
+    assumeInstancesCommute
```
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1401]: I'm not sure when to use what - what's the guidelines?

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 3]
```diff
@@ -1406,6 +1387,42 @@ theorem SeminormedGroup.uniformCauchySeqOn_iff_tendstoUniformlyOn_one {f : ι 
...
+/-- Extension for the `positivity` tactic: additive norms are nonnegative, and if their argument
+is non-zero, then they are positive. Via `norm_nonneg` and `norm_pos_iff'`. -/
+@[positivity Norm.norm _]
+def evalAddNorm' : PositivityExt where eval {u α} _ _ e := do
+  match u, α, e with
+  | 0, ~q(ℝ), ~q(@Norm.norm $E $_n $a) =>
+    let _sng ← synthInstanceQ q(SeminormedAddGroup $E)
+    try
+      let _t0 ← synthInstanceQ q(T0Space $E)
+      let zE ← synthInstanceQ q(Zero $E)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1414]: This shouldn't be needed, you already have a `0` from the `_sng`

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 4]
```diff
@@ -1406,6 +1387,42 @@ theorem SeminormedGroup.uniformCauchySeqOn_iff_tendstoUniformlyOn_one {f : ι 
...
+      let pE ← synthInstanceQ q(PartialOrder $E)
+      assumeInstancesCommute
+      let p ← (← core zE pE a).toNonzero
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1417]:
```suggestion
      let p ← (← core q(inferInstance) pE a).toNonzero
```

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1401]: `assumeInstancesCommute` essentially means "either I know these must always be defeq, or I am happy to produce a totally cryptic error in the kernel if they are not". `assertInstancesCommute` means "in rare cases these won't be defeq, so I will spend a little extra work every time checking, so that I can produce a better error".

File: test/positivity.lean [hunk 5]
```diff
@@ -273,8 +273,11 @@ example : 0 ≤ Real.log 1 := by positivity
 example : 0 ≤ Real.log 0 := by positivity
 example : 0 ≤ Real.log (-1) := by positivity
 
-example {V : Type _} [NormedCommGroup V] (x : V) : 0 ≤ ‖x‖ := by positivity
-example {V : Type _} [NormedAddCommGroup V] (x : V) : 0 ≤ ‖x‖ := by positivity
+example {V : Type*} [NormedCommGroup V] (x : V) : 0 ≤ ‖x‖ := by positivity
+example {V : Type*} [NormedCommGroup V] {x : V} (hx : x ≠ 0) : 0 < ‖x‖ := by positivity
```
Comment (ericrbg) [inline test/positivity.lean:277]: btw, this comes from a different test that is failing:

```lean
import Mathlib.Tactic.Positivity.Basic

set_option trace.Tactic.positivity true

example {V : Type*} [Zero V] [PartialOrder V] {x : V} (hx : 0 < x) : x ≠ 0 := by positivity --fails???
example {V : Type*} [Zero V] [PartialOrder V] {x : V} (hx : 0 < x) : x ≠ 0 := ne_of_gt hx
```

I'm not sure why this fails, I'm currently trying to debug but it's annoying to debug tactics.

Comment (ericrbg) [reply test/positivity.lean]: I fixed this in #10293.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 6]
```diff
@@ -527,27 +527,6 @@ theorem norm_nonneg' (a : E) : 0 ≤ ‖a‖ := by
...
-
-open Lean Meta Qq Function
-
-/-- Extension for the `positivity` tactic: multiplicative norms are nonnegative, via
-`norm_nonneg'`. -/
-@[positivity Norm.norm _]
-def evalMulNorm : PositivityExt where eval {_ _} _zα _pα e := do
-  let .app _ a ← whnfR e | throwError "not ‖ · ‖"
-  let p ← mkAppM ``norm_nonneg' #[a]
-  pure (.nonnegative p)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/Basic.lean:540]: This will conflict with #10196, but not in a major way

Comment (ericrbg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:540]: Happy to fix it when we merge that:)

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 7]
```diff
@@ -1419,6 +1394,41 @@ theorem SeminormedGroup.uniformCauchySeqOn_iff_tendstoUniformlyOn_one {f : ι 
...
+@[positivity Norm.norm _]
+def evalAddNorm' : PositivityExt where eval {u α} _ _ e := do
+  match u, α, e with
+  | 0, ~q(ℝ), ~q(@Norm.norm $E $_n $a) =>
+    let _sng ← synthInstanceQ q(SeminormedAddGroup $E)
+    assertInstancesCommute
+    try
+      let _t0 ← synthInstanceQ q(T0Space $E)
+      let pE ← synthInstanceQ q(PartialOrder $E)
+      assumeInstancesCommute
```
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: yes, indeed it wasn't - I think it was from when I couldn't figure out the other issue,

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 8]
```diff
@@ -1419,6 +1394,41 @@ theorem SeminormedGroup.uniformCauchySeqOn_iff_tendstoUniformlyOn_one {f : ι 
...
+is non-zero, then they are positive. Via `norm_nonneg` and `norm_pos_iff'`. -/
+@[positivity Norm.norm _]
+def evalAddNorm' : PositivityExt where eval {u α} _ _ e := do
+  match u, α, e with
+  | 0, ~q(ℝ), ~q(@Norm.norm $E $_n $a) =>
+    let _sng ← synthInstanceQ q(SeminormedAddGroup $E)
+    assertInstancesCommute
+    try
+      let _t0 ← synthInstanceQ q(T0Space $E)
+      let pE ← synthInstanceQ q(PartialOrder $E)
```
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: We need the `PartialOrder` to call `positivity` on the other subgoal

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 9]
```diff
@@ -1244,7 +1223,9 @@ theorem Filter.Tendsto.op_one_isBoundedUnder_le' {f : α → E} {g : α → F} {
   · exact (mul_nonpos_of_nonpos_of_nonneg (mul_nonpos_of_nonpos_of_nonneg hA <| norm_nonneg' _) <|
       norm_nonneg' _).trans_lt ε₀
   calc
-    A * ‖f i‖ * ‖g i‖ ≤ A * δ * C := by gcongr; exact hg
+    -- TODO: this used to just be `gcongr; exact hg`, but we had to move the `positivity` extension
+    -- down to below `norm_pos_iff`; someone splitting the file should (try to) fix this.
```
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: it does indeed go in order

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: What I'm challenging here is whether positivity is really an appropriate tool for discharging `v ≠ 0` in a vector space

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 10]
```diff
@@ -1419,6 +1421,26 @@ theorem SeminormedGroup.uniformCauchySeqOn_iff_tendstoUniformlyOn_one {f : ι 
 
 end SeminormedGroup
 
+namespace Mathlib.Meta.Positivity
+
+open Lean Meta Qq Function
+
+/-- Extension for the `positivity` tactic: additive norms are positive if their argument
+is non-zero. Via `norm_pos_iff'`. See `evalAddNorm'` for the non-negative case. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1429]:
```suggestion
is non-zero. Via `norm_pos_iff'`. See `evalAddNorm` for the non-negative case. -/
```

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: D'oh, of course. I guess `assumption` may be the only reasonable way right now. There is requests for a `nonzero` tactic; maybe I can leave this as a todo

[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: I'm confused how to use `asumption` here; not sure where I could get the right `MVarId` to use `MVarId.assumption`? (I guess the idea is that all the `withContext` stuff is done externally by the main `positivity` tactic, and so maybe I have to write it myself)

[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: I agree here. synthesizing a partial order instance on a vector space is the wrong approach. Are there other examples of `positivity` using assumptions like this, i.e., that aren't themselves just positivity again?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: I've changed it to use (a Qq version of) `findLocalDeclWithType?`

File: Mathlib/Geometry/Euclidean/Angle/Oriented/Basic.lean [hunk 11]
```diff
@@ -957,3 +952,4 @@ theorem abs_oangle_sub_right_toReal_lt_pi_div_two {x y : V} (h : ‖x‖ = ‖y
   (o.oangle_sub_eq_oangle_sub_rev_of_norm_eq h).symm ▸ o.abs_oangle_sub_left_toReal_lt_pi_div_two h
 
 end Orientation
+#lint
```
Comment (urkud) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/Basic.lean:955]:
```suggestion
```

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 12]
```diff
@@ -1376,6 +1350,60 @@ alias ⟨_, HasCompactSupport.norm⟩ := hasCompactSupport_norm_iff
...
+    | none => return .nonnegative q(norm_nonneg $a)
+  | _, _, _ => throwError "not `‖·‖`"
+
+example [SeminormedGroup E] {a : E} (_ha : a ≠ 1) : 0 ≤ ‖a‖ := by positivity
+example [NormedGroup E] {a : E} : 0 ≤ ‖a‖ := by positivity
+example [NormedGroup E] {a : E} (ha : a ≠ 1) : 0 < ‖a‖ := by positivity
+
+example [SeminormedAddGroup E] {a : E} (_ha : a ≠ 0) : 0 ≤ ‖a‖ := by positivity
+example [NormedAddGroup E] {a : E} : 0 ≤ ‖a‖ := by positivity
+example [NormedAddGroup E] {a : E} (ha : a ≠ 0) : 0 < ‖a‖ := by positivity
```
Comment (urkud) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1403]: Please move these examples to tests.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 13]
```diff
@@ -1376,6 +1350,58 @@ alias ⟨_, HasCompactSupport.norm⟩ := hasCompactSupport_norm_iff
...
+@[positivity ‖_‖]
+def evalMulNorm : PositivityExt where eval {u α} _ _ e := do
+  match u, α, e with
+  | 0, ~q(ℝ), ~q(@Norm.norm $E $_n $a) =>
+    let _seminormedGroup_E ← synthInstanceQ q(SeminormedGroup $E)
+    assertInstancesCommute
+    -- Check whether we are in a normed group and whether the context contains a `a ≠ 1` assumption
+    let o : Option (Q(NormedGroup $E) × Q($a ≠ 1)) := ← do
+      let .some normedGroup_E ← trySynthInstanceQ q(NormedGroup $E) | return none
+      let some pa ← Qq.findLocalDeclWithType? q($a ≠ 1) | return none
```
Comment (kmill) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1370]: I hope looking at the local context like this doesn't affect any caching that may or may not exist in positivity. (I don't see any.)

This is something that the simp discharger framework has to worry about, when going under binders.

Functions like `evalTriangleRemovalBound` have pre-existing uses of this, so it's likely OK, but I just want to hear confirmation that this is fine.

**Review by kmill — COMMENTED** [review]
After addressing the two comments, I don't see why we shouldn't merge. Thanks!

bors d+

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1370]: I can confirm that there is no caching in `positivity` as far as I am aware

File: Mathlib/Tactic/Qq.lean [hunk 14]
```diff
@@ -0,0 +1,26 @@
+/-
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Tactic/Qq.lean:1]: Ah thanks! I didn't know about this file
